US04673746
A mixture of 11.6 g of 7-bromo-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole, 17.5 g of ethyl bromoacetate, 13.3 g of potassium carbonate and 100 ml of dimethylformamide is heated at 65° C. for 5 hr. The reaction mixture is poured into water and the mixture is extracted with ether. The ether extracts are washed, dried and evaporated to afford ethyl {[7-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, mp 130°-131° C.

reactant | 7-bromo-3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | 11.6 g | BrC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OC | C14H9BrFNO2
reactant | ethyl bromoacetate | 17.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 13.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl {[7-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | BrC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)OCC | C17H13BrFNO4
